US05866684
70 mg (0.067 mmol) of N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[1(S)-(dimethoxymethyl)-3-butynyl]-L-leucinamide were stirred in a mixture of 4 ml of trifluoroacetic acid, 4 ml of dichloromethane and 30 mg of water at room temperature for 30 minutes. The solution was evaporated to dryness in a vacuum and the residue was chromatographed on silica gel using dichloromethane/methanol/acetic acid/water (60:13:2:2) for the elution. There were obtained 36 mg of 2(RS)-[[N-[N-[N-[N-[N-[(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-4-pentynal (9:1 mixture of diastereoisomers) as a white solid. MS: m/e 829.6 [M+H]+.

reactant | N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N1-[1(S)-(dimethoxymethyl)-3-butynyl]-L-leucinamide | 0.067 mmol, 70 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC#C)C(OC)OC | C54H86N6O14
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
reactant | water | 30 mg | O | H2O
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [N-[N-[N-[N-[N-[(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-4-pentynal | 36 mg | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C=O)CC#C | C40H56N6O13
